US07514437B2
A mixture of palladium on carbon (10%, 500 mg), methyl N-[(1R)-2-{[2-(benzyloxy)phenyl]amino}-1-(benzofuran-5-yl)-2-oxoethyl]-L-leucinate (5.1 g) and ethyl acetate (60 ml) was stirred under a hydrogen atmosphere for 5 hours. The reaction was then filtered through Celite and the filter pad was washed with further portions of ethyl acetate. The combined organic fractions were evaporated to give methyl N-{(1R)-1-(benzofuran-5-yl)-2-[(2-hydroxyphenyl)amino]-2-oxoethyl}-L-leucinate (3.429 g).

reactant | methyl N-[(1R)-2-{[2-(benzyloxy)phenyl]amino}-1-(benzofuran-5-yl)-2-oxoethyl]-L-leucinate | 5.1 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)NC([C@@H](C=1C=CC2=C(C=CO2)C1)N[C@@H](CC(C)C)C(=O)OC)=O | C30H32N2O5
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | methyl N-{(1R)-1-(benzofuran-5-yl)-2-[(2-hydroxyphenyl)amino]-2-oxoethyl}-L-leucinate | 3.429 g | O1C=CC2=C1C=CC(=C2)[C@H](C(=O)NC2=C(C=CC=C2)O)N[C@@H](CC(C)C)C(=O)OC | C23H26N2O5
